simulator lang=spectre
global 0
parameters vdd=1.8

VSS (DGND 0) vsource dc=0 type=dc
VDD (DVDD DGND) vsource dc=vdd type=dc

// Sample all-zero at 50 ns and all-one at 150 ns.
VSOUT (SOUT DGND) vsource type=pulse val0=0 val1=vdd delay=50n \
    rise=10p fall=10p width=10n period=100n
VCOMP (COMP DGND) vsource dc=vdd type=dc
VCOMN (COMN DGND) vsource dc=0 type=dc
VRST1 (RST1 DGND) vsource dc=0 type=dc
VCALRST (CAL_RST DGND) vsource dc=vdd type=dc
VCLKSAR (CLK_SAR DGND) vsource dc=0 type=dc
VCLK00 (CLK00 DGND) vsource dc=0 type=dc
VCALCLK (CAL_CLK DGND) vsource dc=0 type=dc

VBP0  (BP0  DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP1  (BP1  DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP2  (BP2  DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP3  (BP3  DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP4  (BP4  DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP5  (BP5  DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP6  (BP6  DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP7  (BP7  DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP8  (BP8  DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP9  (BP9  DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP10 (BP10 DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP11 (BP11 DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP12 (BP12 DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u
VBP13 (BP13 DGND) vsource type=pulse val0=0 val1=vdd delay=100.1n rise=10p fall=10p width=99.8n period=1u

XDEC (B11 B10 B9 B8 B7 B6 B5 B4 B3 B2 B1 B0 \
    BP0 BP1 BP2 BP3 BP4 BP5 BP6 BP7 BP8 BP9 BP10 BP11 BP12 BP13 \
    DGND DVDD SOUT COMP COMN RST1 CAL_RST CLK_SAR CLK00 CLK_OUT \
    D0 D1 D2 D3 D4 D5 D6 D7 D8 D9 D10 D11 D12 \
    U0 U1 U2 U3 U4 U5 U6 U7 U8 U9 U10 U11 U12 \
    CAL DONE ERR CAL_CLK) DEC_CAL_PHY \
    CAL_BYPASS=1 DEBUG=1 FRAC_BITS=4 NORMALIZE_REDUNDANT_RANGE=1 \
    REMOVE_REDUNDANCY_OFFSET=1

XMON (SOUT B11 B10 B9 B8 B7 B6 B5 B4 B3 B2 B1 B0 DGND DVDD) DEC_MON

tran tran stop=210n maxstep=1n annotate=status
save B11 B10 B9 B8 B7 B6 B5 B4 B3 B2 B1 B0 SOUT DONE ERR
saveOptions options save=selected

ahdl_include "DEC.va"
ahdl_include "DEC_MON.va"
